* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=4.30729974369e-11
.param C2=1.72787099293e-10
.param Csh=1.11025516886e-10
.param L1=1.52386429023e-06
.param Vsrc_amp=760.472753927
.param ne=3.61897446068e+14
.param nu_m=179682682.712

* Sources
Vsrc src 0 SIN(0 760.472753927 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 54.9623275489
Lbulk nb ns 3.05885501704e-07
Csh ns n 1.11025516886e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
