* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.70307768363e-09
.param C2=6.23617904302e-10
.param Csh=1.61026268711e-11
.param L1=6.90916988277e-08
.param Vsrc_amp=354.896898403
.param ne=7.88598437145e+14
.param nu_m=96067546.1468

* Sources
Vsrc src 0 SIN(0 354.896898403 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 13.4854423499
Lbulk nb ns 1.40374589451e-07
Csh ns n 1.61026268711e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
