* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.55451975072e-10
.param C2=4.18664499714e-11
.param Csh=4.82693185018e-11
.param L1=1.72570192044e-07
.param Vsrc_amp=726.358742158
.param ne=7.43954422422e+14
.param nu_m=80891322.2862

* Sources
Vsrc src 0 SIN(0 726.358742158 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 12.0364943422
Lbulk nb ns 1.48798338339e-07
Csh ns n 4.82693185018e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
