* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=6.96003048773e-12
.param C2=7.7126971808e-10
.param Csh=4.43280727754e-11
.param L1=7.97069581816e-08
.param Vsrc_amp=359.654991897
.param ne=1.03983691553e+15
.param nu_m=126107217.903

* Sources
Vsrc src 0 SIN(0 359.654991897 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 13.4251493091
Lbulk nb ns 1.0645821494e-07
Csh ns n 4.43280727754e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
