* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=7.68031255995e-10
.param C2=1.49886175691e-10
.param Csh=3.51108657926e-11
.param L1=7.73903954502e-08
.param Vsrc_amp=778.891144901
.param ne=1.37260602804e+15
.param nu_m=148579505.452

* Sources
Vsrc src 0 SIN(0 778.891144901 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 11.9827753617
Lbulk nb ns 8.06489113372e-08
Csh ns n 3.51108657926e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
