* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.97196832315e-11
.param C2=8.63928430594e-12
.param Csh=2.26607606664e-11
.param L1=3.34468337573e-08
.param Vsrc_amp=444.424470462
.param ne=3.08951632914e+14
.param nu_m=131791084.938

* Sources
Vsrc src 0 SIN(0 444.424470462 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 47.2215185948
Lbulk nb ns 3.58305864293e-07
Csh ns n 2.26607606664e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
