* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=6.31889986577e-10
.param C2=6.63250039529e-10
.param Ce=8.5148713686e-11
.param Ch=6.8314889644e-11
.param Csh=2.79546458547e-11
.param L1=9.07573022529e-08
.param Lh=3.62349466452e-08
.param Lp=3.7669051213e-08
.param Rp=4.51113669581
.param Vsrc_amp=433.457456692
.param ne=3.06497975056e+14
.param nu_m=179215885.341

* Sources
Vsrc src 0 SIN(0 433.457456692 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 8.5148713686e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
