* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.22970502984e-10
.param C2=2.43526342529e-11
.param Ce=1.05306685648e-12
.param Ch=1.75382231169e-11
.param Csh=4.00226621895e-11
.param L1=7.88531441633e-08
.param Lh=3.72193185133e-06
.param Lp=4.42165323875e-08
.param Rp=25.9439614456
.param Vsrc_amp=776.562263803
.param ne=2.60792130159e+14
.param nu_m=98284120.4192

* Sources
Vsrc src 0 SIN(0 776.562263803 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 25.9439614456
Lbulk nb ns 4.42165323875e-08
Csh ns n 4.00226621895e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
