* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.21309940391e-12
.param C2=1.61668921796e-10
.param Ce=7.21734222084e-12
.param Ch=2.93542794627e-10
.param Csh=1.45860151874e-10
.param L1=5.05492000988e-07
.param Lh=5.24263982176e-07
.param Lp=3.33946961228e-07
.param Rp=37.3014695495
.param Vsrc_amp=604.424153893
.param ne=6.28537883318e+14
.param nu_m=186086201.189

* Sources
Vsrc src 0 SIN(0 604.424153893 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 7.21734222084e-12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
