* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.78455076126e-12
.param C2=3.72882115911e-11
.param Ce=1.14900846896e-12
.param Ch=8.36080685927e-11
.param Csh=1.21158606406e-11
.param L1=1.24093529062e-06
.param Lh=1.40309412217e-06
.param Lp=1.76413199401e-08
.param Rp=2.24054160312
.param Vsrc_amp=557.083007639
.param ne=2.07423587608e+14
.param nu_m=91961514.1839

* Sources
Vsrc src 0 SIN(0 557.083007639 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 49.0786245663
Lbulk nb ns 5.33686564449e-07
Csh ns n 1.21158606406e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
