* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.82598878552e-11
.param C2=6.84336850996e-10
.param Ce=6.17804958924e-11
.param Ch=1.01969258579e-09
.param Csh=2.54297160922e-11
.param L1=2.80354571471e-08
.param Lh=4.17742312488e-07
.param Lp=1.36110556871e-08
.param Rp=10.1139386531
.param Vsrc_amp=362.857462491
.param ne=1.35088807549e+15
.param nu_m=159821835.197

* Sources
Vsrc src 0 SIN(0 362.857462491 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 10.1139386531
Lbulk nb ns 1.36110556871e-08
Csh ns n 2.54297160922e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
