* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.50280415216e-10
.param C2=1.01575131519e-10
.param Ce=3.51610214346e-12
.param Ch=4.37136696408e-11
.param Csh=1.34212211669e-11
.param L1=1.48903818857e-06
.param Lh=2.4157233636e-07
.param Lp=7.1917792579e-08
.param Rp=7.574829787
.param Vsrc_amp=299.697790137
.param ne=1.29174255921e+15
.param nu_m=171664732.42

* Sources
Vsrc src 0 SIN(0 299.697790137 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 7.574829787
Lbulk nb ns 7.1917792579e-08
Csh ns n 1.34212211669e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
