* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.55625827105e-11
.param C2=1.95214504996e-11
.param Ce=2.7395389023e-11
.param Ch=3.66456843529e-10
.param Csh=4.6314188301e-11
.param L1=3.7483859096e-07
.param Lh=1.81513447563e-07
.param Lp=1.75297953788e-07
.param Rp=56.1572564843
.param Vsrc_amp=282.463079002
.param ne=1.03823602087e+15
.param nu_m=134779031.975

* Sources
Vsrc src 0 SIN(0 282.463079002 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 2.7395389023e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
