* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=7.96602623386e-10
.param C2=2.74766108942e-10
.param Ce=4.02406093081e-12
.param Ch=8.4751336177e-11
.param Csh=5.82823768749e-11
.param L1=2.93334667079e-07
.param Lh=1.46358903317e-07
.param Lp=2.9974731059e-07
.param Rp=12.1320847266
.param Vsrc_amp=108.763732218
.param ne=2.15954796223e+14
.param nu_m=77335040.2417

* Sources
Vsrc src 0 SIN(0 108.763732218 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 12.1320847266
Lbulk nb ns 2.9974731059e-07
Csh ns n 5.82823768749e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
