* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.41108522191e-09
.param C2=3.11074078808e-11
.param Ce=1.8322470976e-11
.param Ch=5.10496602262e-10
.param Csh=1.65341403156e-11
.param L1=8.85760921586e-08
.param Lh=3.12277792715e-06
.param Lp=5.28781225467e-08
.param Rp=7.04012896331
.param Vsrc_amp=742.443628271
.param ne=1.40469176045e+15
.param nu_m=74852082.8115

* Sources
Vsrc src 0 SIN(0 742.443628271 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 1.8322470976e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
