* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=9.70926659472e-10
.param C2=4.04569930194e-11
.param Ce=1.93791003415e-11
.param Ch=4.16406547877e-10
.param Csh=7.02463414997e-11
.param L1=1.63438899201e-07
.param Lh=2.46935394359e-07
.param Lp=6.18340294035e-08
.param Rp=4.87759490881
.param Vsrc_amp=279.765500862
.param ne=3.08678892749e+14
.param nu_m=58929713.7286

* Sources
Vsrc src 0 SIN(0 279.765500862 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 4.87759490881
Lbulk nb ns 6.18340294035e-08
Csh ns n 7.02463414997e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
