* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=9.96737390032e-10
.param C2=1.54101428007e-11
.param Ce=5.52663147276e-11
.param Ch=6.90977820895e-11
.param Csh=7.31753265438e-11
.param L1=2.39158436403e-07
.param Lh=1.9101032546e-07
.param Lp=2.21529342892e-07
.param Rp=30.6698069455
.param Vsrc_amp=798.08435199
.param ne=1.2721735534e+15
.param nu_m=71801640.8515

* Sources
Vsrc src 0 SIN(0 798.08435199 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 30.6698069455
Lbulk nb ns 2.21529342892e-07
Csh ns n 7.31753265438e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
