* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=2.17828578275e-11
.param C2=1.88090600044e-10
.param Ce=1.92221033016e-11
.param Ch=6.59360557892e-10
.param Csh=1.92923496678e-11
.param L1=6.99381054041e-07
.param Lh=1.19234834288e-06
.param Lp=6.44683720587e-08
.param Rp=6.5616540018
.param Vsrc_amp=355.497140551
.param ne=5.40938202231e+14
.param nu_m=58117180.1141

* Sources
Vsrc src 0 SIN(0 355.497140551 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 1.92221033016e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
