* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.67127233329e-09
.param C2=1.09614665867e-11
.param Ce=3.77538892811e-11
.param Ch=7.73432609245e-10
.param Csh=1.64381113802e-11
.param L1=6.8214163958e-07
.param Lh=5.77990584051e-07
.param Lp=1.66261411194e-07
.param Rp=18.4485443373
.param Vsrc_amp=410.738210642
.param ne=4.58937847389e+14
.param nu_m=51157666.4611

* Sources
Vsrc src 0 SIN(0 410.738210642 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 12.3396051451
Lbulk nb ns 2.41207349723e-07
Csh ns n 1.64381113802e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
