* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=6.84429391828e-11
.param C2=1.18108350796e-09
.param Ce=3.11114023986e-12
.param Ch=6.60564718607e-12
.param Csh=4.81983086498e-11
.param L1=5.90850930942e-08
.param Lh=1.73292323383e-07
.param Lp=1.61109631446e-08
.param Rp=6.10693513957
.param Vsrc_amp=278.727668659
.param ne=5.41105559794e+14
.param nu_m=109493856.908

* Sources
Vsrc src 0 SIN(0 278.727668659 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 6.10693513957
Lbulk nb ns 1.61109631446e-08
Csh ns n 4.81983086498e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
