* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.29952819589e-10
.param C2=7.51242657198e-11
.param Ce=6.88054511827e-11
.param Ch=3.75197119903e-10
.param Csh=1.89067493455e-10
.param L1=1.19080511556e-06
.param Lh=5.13342862585e-08
.param Lp=1.86028304435e-07
.param Rp=2.62538048382
.param Vsrc_amp=696.666813228
.param ne=1.05669681299e+15
.param nu_m=57625048.1007

* Sources
Vsrc src 0 SIN(0 696.666813228 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 6.88054511827e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
