* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.75465423291e-09
.param C2=1.06693823169e-11
.param Ce=3.389113096e-11
.param Ch=1.10614878476e-09
.param Csh=7.65708677213e-11
.param L1=3.87041524788e-08
.param Lh=2.87619431084e-08
.param Lp=1.01844179511e-08
.param Rp=3.49032096876
.param Vsrc_amp=700.949597137
.param ne=3.2737223405e+14
.param nu_m=64416042.8996

* Sources
Vsrc src 0 SIN(0 700.949597137 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 3.49032096876
Lbulk nb ns 1.01844179511e-08
Csh ns n 7.65708677213e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
