* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=5.53611793504e-12
.param C2=3.43534058885e-11
.param Ce=1.56974691928e-11
.param Ch=1.19708131087e-10
.param Csh=1.1189535075e-10
.param L1=1.47647726416e-07
.param Lh=4.99393296201e-06
.param Lp=2.44422715971e-08
.param Rp=8.23213158445
.param Vsrc_amp=744.051616021
.param ne=2.10743513219e+14
.param nu_m=102434033.126

* Sources
Vsrc src 0 SIN(0 744.051616021 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 8.23213158445
Lbulk nb ns 2.44422715971e-08
Csh ns n 1.1189535075e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
