* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=2.08303399021e-10
.param C2=6.50353714185e-11
.param Ce=1.32058261892e-10
.param Ch=7.2859668714e-12
.param Csh=3.14297250822e-11
.param L1=1.24522769031e-06
.param Lh=3.66752477929e-07
.param Lp=3.89289143639e-07
.param Rp=65.9094978775
.param Vsrc_amp=630.690865463
.param ne=2.27911979742e+14
.param nu_m=56452209.6838

* Sources
Vsrc src 0 SIN(0 630.690865463 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 27.4194161844
Lbulk nb ns 4.85710237704e-07
Csh ns n 3.14297250822e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
