* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=4.46164145255e-10
.param C2=4.04628397577e-11
.param Ce=1.30097021932e-11
.param Ch=5.40261864037e-11
.param Csh=1.18968690993e-10
.param L1=9.06542338221e-08
.param Lh=9.88387115161e-08
.param Lp=1.68974435477e-07
.param Rp=16.0763482048
.param Vsrc_amp=413.797690115
.param ne=6.22095374798e+14
.param nu_m=171075993.916

* Sources
Vsrc src 0 SIN(0 413.797690115 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 30.4422333439
Lbulk nb ns 1.77945675761e-07
Csh ns n 1.18968690993e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
